US06025352
3-(Triphenylmethylthio)-4-hydroxymethylpyridine
4-hydroxymethyl-3-mercaptopyridine (100 mg, 0.71 mmol) was dissolved in DMF (5 mL) and diisipropylethylamine (0.12 mL, 0.71 mmol) was added followed by triphenylmethylchloride (197 mg, 0.71 mmol). After 30 min. the reaction mixture was partitioned between water and ethyl acetate, and the organic layer was thoroughly washed with water and dried with anhydrous sodium sulfate. Purification by radial chromatography on silica gel produced pure title material (67 mg, 25% yield).

reactant | 4-hydroxymethyl-3-mercaptopyridine | 0.71 mmol, 100 mg | OCC1=C(C=NC=C1)S | C6H7NOS
reactant | triphenylmethylchloride | 0.71 mmol, 197 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(Triphenylmethylthio)-4-hydroxymethylpyridine | 67 mg, 25% yield | C1(=CC=CC=C1)C(SC=1C=NC=CC1CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS
